US06921763B2
rac-N2-(4-{4-Amino-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-chloro-1,3-benzoxazol-2-amine monoacetate was prepared from rac-3-iodo-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.200 g, 0.319 mmol) and N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-chloro-1,3-benzoxazol-2-amine (0.148 g, 0.399 mmol) in a manner similar to that used for the preparation of cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine. The compound was formed as an off-white solid (0.080 g, 50%). 1H NMR (DMSO-d6, 400 MHz) 1.91 (s, 3H), 2.33 (m, 2H), 2.66 (m, 2H), 2.75-2.85 (m, 3H), 3.17 (t, 1H), 3.24 (s, 3H), 3.45 (t, 2H), 5.37 (m, 1H), 7.18 (d, 1H), 7.55 (d, 2H), 7.68 (d, 2H), 7.92 (d, 2H), 8.24 (s, 1H), 9.80 (s, 1H); RP-HPLC Rt 11.337 min, 97% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 505 (MH+).

reactant | rac-3-iodo-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.319 mmol, 0.200 g | IC1=NN(C2=NC=NC(=C21)N)C2CN(CC2)CCOC | C12H17IN6O
reactant | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-chloro-1,3-benzoxazol-2-amine | 0.399 mmol, 0.148 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)Cl)C | C19H20BClN2O3
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC=2OC1=C(N2)C=CC=C1)F)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H32FN9O
product | rac-N2-(4-{4-Amino-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-chloro-1,3-benzoxazol-2-amine monoacetate | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1)Cl)C1CN(CC1)CCOC | InChI=1S/C25H25ClN8O2.C2H4O2/c1-35-11-10-33-9-8-18(13-33)34-24-21(23(27)28-14-29-24)22(32-34)15-2-5-17(6-3-15)30-25-31-19-12-16(26)4-7-20(19)36-25;1-2(3)4/h2-7,12,14,18H,8-11,13H2,1H3,(H,30,31)(H2,27,28,29);1H3,(H,3,4)
